US08067445B2
Step 1: {2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester
To {2′-[(acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester (0.292 g, 0.69 mmol) in MeOH (2.3 mL) and THF (2.9 mL) was added aqueous 1N NaOH (1.7 mL), and the solution was stirred at room temperature for 2 hours. The mixture was neutralized with aqueous 1N HCl, and the aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was dissolved in EtOH, and thionyl chloride (0.11 mL, 1.51 mmol) was added. The reaction was stirred for 30 minutes, until no starting material was seen by analytical LCMS. The solution was neutralized with saturated aqueous NaHCO3, and the aqueous layer was separated and extracted with CH2Cl2. The combined organic layers were washed with H2O, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | {2′-[(acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid methyl ester | 0.69 mmol, 0.292 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C22H24F3NO4
reactant | NaOH | 1N, 1.7 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
reactant | thionyl chloride | 1.51 mmol, 0.11 mL | S(=O)(Cl)Cl | Cl2OS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 2.3 mL | CO | CH4O
solvent | THF | 2.9 mL | C1CCOC1 | C4H8O
product | {2′-[(Acetyl-ethyl-amino)-methyl]-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(C)=O)=O | C23H26F3NO4
